Data/regression/wb97xd3/fold_0/aam_pretrain_train.csv
AAM,ea
[C:1]([O:2][C:3]([C:4]([C:5]([H:13])([H:14])[H:15])([C:6]([H:16])([H:17])[H:18])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1](=[O:2])([H:8])[H:9].[C:3](=[C:4]([C:5]([H:13])([H:14])[H:15])[C:6]([H:16])([H:17])[H:18])([H:10])[H:11].[H:7][H:12],59.4041643068887
[C:1]([C@@:2]([C:3]([O:4][H:14])([H:11])[H:12])([O+:6]=[C-:5][H:13])[H:10])([H:7])([H:8])[H:9]>>[C:1]([C@@:2]1([H:10])[C:3]([H:11])([H:12])[O:4][C:5]([H:13])([H:14])[O:6]1)([H:7])([H:8])[H:9],8.0271425635801
[C:1]([O:2][c:3]1[n:4][n:5]([H:11])[c:6]([H:12])[c:7]1[H:13])([H:8])([H:9])[H:10]>>[C:1](=[O+:2][C:3]1=[N:4][N:5]([H:11])[C-:6]([H:12])[C:7]1([H:8])[H:13])([H:9])[H:10],86.9705100377085
[C:1]([C:2]1=[C:3]([C:5](=[O:6])[C:7]([H:13])([H:14])[H:15])[C:4]1([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]#[C:3][C:4]([C:5](=[O:6])[C:7]([H:13])([H:14])[H:15])([H:11])[H:12])([H:8])([H:9])[H:10],45.1783811385776
[C:1]([C:2]([C:5]1([H:14])[C:3]([H:10])([H:11])[C:4]1([H:12])[H:13])=[O:6])([H:7])([H:8])[H:9]>>[C:1]([C:2]1([C:5](=[O:6])[H:14])[C:3]([H:10])([H:11])[C:4]1([H:12])[H:13])([H:7])([H:8])[H:9],89.36653898821262
[C:1]([O:2][C:3]([C@@:4]([C:5]([H:14])([H:15])[H:16])([C:6]([O:7][H:19])([H:17])[H:18])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([O:2]/[C:3](=[C:4](\[C:5]([H:14])([H:15])[H:16])[H:13])[H:12])([H:8])([H:9])[H:10].[C:6](=[O:7])([H:17])[H:18].[H:11][H:19],61.2041027070195
[C:1]([N:2]([C:3]([N:4]([C:7]([H:13])([H:14])[H:15])[H:12])=[C:5]=[O:6])[H:11])([H:8])([H:9])[H:10]>>[C:1]([N:2](/[C:3](=[N:4]\[H:12])[C:5](=[O:6])[C:7]([H:13])([H:14])[H:15])[H:11])([H:8])([H:9])[H:10],45.0158258221451
[C:1]([C@@:2]1([H:10])[C:3]([H:11])([H:12])[C@:4]1([C:5]#[N:6])[H:13])([H:7])([H:8])[H:9]>>[C:1]([H:7])([H:8])([H:9])[H:10].[C:2]1[C:3]([H:11])([H:12])[C@:4]1([C:5]#[N:6])[H:13],88.0890377828385
[N:1](=[C:2](/[N:3]([C:4](=[O:5])[H:9])[H:8])[H:7])\[H:6]>>[C:4](=[O:5])([H:7])[H:9].[N:1](=[C:2]=[N:3][H:8])[H:6],68.8251145518946
[C:1]([O:2][C@:3]([C:5]([H:14])([H:15])[H:16])([C:6]#[N:7])[H:9])([H:8])[H:10].[C:4]([H:11])([H:12])[H:13]>>[C:1]([O:2][C:3]([C:4]([H:11])([H:12])[H:13])([C:5]([H:14])([H:15])[H:16])[C:6]#[N:7])([H:8])([H:9])[H:10],28.842603182660426
[C:1]([N:2]([H:11])[H:12])([H:8])([H:9])[H:10].[C:3](=[O:4])=[C:5]([C:6]([H:13])([H:14])[H:15])[C:7]([H:16])([H:17])[H:18]>>[C:1]([N:2]([C:3](=[O:4])[C:5]([C:6]([H:13])([H:14])[H:15])([C:7]([H:16])([H:17])[H:18])[H:12])[H:11])([H:8])([H:9])[H:10],31.567502194720397
[C-:3]#[O+:4].[O:1]=[C:2]([C:5](=[O:6])[H:8])[H:7]>>[O:1]=[C:2]([C:3](=[O:4])[C:5](=[O:6])[H:8])[H:7],37.65117765091756
[O:1]([C:2]([C:3]([O:4][H:11])([C:5]([O:6][H:14])([H:12])[H:13])[H:10])([H:8])[H:9])[H:7]>>[C:2]([C:3](=[O:4])[H:10])([C:5]([O:6][H:14])([H:12])[H:13])([H:8])[H:9].[O:1]([H:7])[H:11],52.4954003634994
[O:1]([C+:2]1[N:3]([H:8])[C:4]([H:9])([H:10])[C:5]([H:11])([H:12])[C-:6]([H:14])[N:7]1[H:15])[H:13]>>[O:1]=[C:2]1[N:3]([H:8])[C:4]([H:9])([H:10])[C:5]([H:11])([H:12])[C:6]([H:13])([H:14])[N:7]1[H:15],31.06386666868299
[N:1]([C:2]([C@@:3]([O:4][H:12])([C:5]#[N:6])[H:11])([H:9])[H:10])([H:7])[H:8]>>[C:5]=[N:6][H:8].[N:1]([C:2]([C:3](=[O:4])[H:11])([H:9])[H:10])([H:7])[H:12],29.0336522358117
[C:1]([C@@:2]1([H:11])[O:3][C:4](=[O:5])[C:6]([H:12])=[C:7]1[H:13])([H:8])([H:9])[H:10]>>[C:1]([C:2]1=[C:7]([H:13])[C:6]([H:11])([H:12])[C:4](=[O:5])[O:3]1)([H:8])([H:9])[H:10],112.689520076124
[O-:1][C:2](=[C:3]([N+:4]#[N:5])[H:7])[H:6]>>[C:3](=[N+:4]=[N-:5])([H:6])[H:7].[O+:1]#[C-:2],70.3604842312412
[C:1]([c:2]1[n:3][o:4][c:5]([N:6]([H:11])[H:12])[c:7]1[H:13])([H:8])([H:9])[H:10]>>[C:1](/[C:2]([N:3]=[O:4])=[C:7](/[C:5]#[N:6])[H:13])([H:8])([H:9])[H:10].[H:11][H:12],87.83749756235302
[C:1]([H:8])([H:9])([H:10])[H:12].[O:2](/[C:3](=[C:4](/[C:6]([O:7][H:17])([H:15])[H:16])[H:13])[H:11])[O:5][H:14]>>[C:1]([O:2][C:3]([C@@:4]([O:5][H:14])([C:6]([O:7][H:17])([H:15])[H:16])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10],79.31900333838922
[N:1](=[C:2](\[O:3][C:4](=[O:5])[H:9])[C:6](=[O:7])[H:10])\[H:8]>>[N:1](=[C:2](/[C:6](=[O:7])[H:10])[H:9])\[H:8].[O:3]=[C:4]=[O:5],46.478839905782
[N+:1]([C:2]1=[N:3][N:4][C:5](=[N:6][H:11])[O:7]1)([H:8])([H:9])[H:10]>>[N:1]([c:2]1[n:3][n:4][c:5]([N:6]([H:10])[H:11])[o:7]1)([H:8])[H:9],41.0853988693144
[C:1]([O:2][H:13])([H:8])([H:9])[H:10].[C:3](=[C:4]([O:5][H:14])[C:6]([O:7][H:17])([H:15])[H:16])([H:11])[H:12]>>[C:1]([O:2][C:3]([C@@:4]([O:5][H:14])([C:6]([O:7][H:17])([H:15])[H:16])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10],60.80996905138017
[C:1]([O:2][C@@:3]([C:4]([H:11])([H:12])[H:13])([C:5](=[O:6])[H:14])[H:10])([H:7])([H:8])[H:9]>>[C:1]([O:2][H:14])([H:7])([H:8])[H:9].[C:3]([C:4]([H:11])([H:12])[H:13])(=[C:5]=[O:6])[H:10],71.1146038120603
[C:1]([C@@:2]([O:3][H:11])([C:4]([O:5][H:14])([H:12])[H:13])[C:6]#[C:7][H:15])([H:8])([H:9])[H:10]>>[C:1]([C:2]([C:4]([O:5][H:14])([H:12])[H:13])=[C:6]=[C:7]([O:3][H:11])[H:15])([H:8])([H:9])[H:10],53.80353626487471
